US06987195B2
Preparation PPG-4 2-Naphthol Ether
To a clean, dry stirred tank pressure vessel with nitrogen inlet is charged 1434.05 g (9.95 moles) of 2-Naphthol and 1445 mLs of Toluene. The vessel is purged with nitrogen and a catalytic amount (4.97 g) of BF3/Etherate Solution is charged. The temperature is raised to 110° C. and 2310.86 g (39.79 moles) of Propylene Oxide is added at a constant rate to keep the pressure inside the vessel below 50 psig. After all Propylene Oxide is added, the reaction mixture is allowed to react for an additional 3 hours after which the temperature is raised to 150° C. and the toluene is distilled off under nitrogen sparge. After the distillation of Toluene, the temperature is cooled to 110° C. and vacuum is applied for 1 hour.

reactant | 2-Naphthol | 9.95 moles, 1434.05 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | Propylene Oxide | 39.79 moles, 2310.86 g | C1C(C)O1 | C3H6O
solvent | Toluene | 1445 mLs | C1(=CC=CC=C1)C | C7H8
product | 2-Naphthol Ether | C1=C(C=CC2=CC=CC=C12)O.CCOCC | InChI=1S/C10H8O.C4H10O/c11-10-6-5-8-3-1-2-4-9(8)7-10;1-3-5-4-2/h1-7,11H;3-4H2,1-2H3
